US06251907B1
To a suspension of 1-benzenesulfonyl-3(3-phenoxycarbonyl-4piperazinyl)-1H-indazole (31.3 g, 67.7 mmol) in ethanol (500 ml) was added 50% KOH (aq.) (100 g of KOH in 100 g H2O) at room temperature. The reaction mixture was warmed to reflux for 6.5 hours and cooled to room temperature. After adjusting the pH to about two using HCl (con., 120 ml), the volatiles were removed under reduced pressure. The remaining residue was diluted with water and removed via filtration. The aqueous filtrate was washed with EtOAc and basified to pH=8 using 50% NaOH (aq.). The product was extracted into 10:1 dichloromethane/isopropylalcohol. The combined organics were dried (MgSO4), filtered, and concentrated to give 13.0 g of desired 3-piperazin-1-yl-1H-indazole as a brown solid which was used without further purification.

reactant | 1-benzenesulfonyl-3(3-phenoxycarbonyl-4piperazinyl)-1H-indazole | 67.7 mmol, 31.3 g | C1(=CC=CC=C1)S(=O)(=O)N1N=C(C2=CC=CC=C12)N1C(CNCC1)C(=O)OC1=CC=CC=C1 | C24H22N4O4S
reactant | KOH | 100 g | [OH-].[K+]
reactant | HCl | 120 ml | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-piperazin-1-yl-1H-indazole | 13.0 g | N1(CCNCC1)C1=NNC2=CC=CC=C12 | C11H14N4
